US09290451B2
6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid (2-methyl-tetrahydro-pyran-4-yl)-amide
The title compound was synthesized in analogy to Example 1, using 6-(3-chlorophenyl)-2-pyridinecarboxylic acid (CAN 863704-38-5) and tetrahydro-2-methyl-2H-pyran-4-amine (CAN 89584-06-5) as starting materials, MS (EI): m/e=331.1 [M+H]+.

reactant | 6-(3-chlorophenyl)-2-pyridinecarboxylic acid | ClC=1C=C(C=CC1)C1=CC=CC(=N1)C(=O)O | C12H8ClNO2
reactant | tetrahydro-2-methyl-2H-pyran-4-amine | CC1OCCC(C1)N | C6H13NO
product | 6-(3-Chloro-phenyl)-pyridine-2-carboxylic acid (2-methyl-tetrahydro-pyran-4-yl)-amide | CC1OCCC(C1)NC(=O)C1=NC(=CC=C1)C1=CC(=CC=C1)Cl | C18H19ClN2O2
